US08541588B2
3-Cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 68, 25 g, 57.5 mmol) in DMSO (125 mL) was added potassium carbonate (20.4 g, 148 mmol) followed by dropwise addition of the 2-iodo-4-(trifluoromethyl)phenol (Preparation 224, 17.4 g, 60.6 mmol). The reaction was stirred at room temperature for 2 hours. The reaction was poured into water (1 L) and extracted with ethyl acetate (3×300 mL). The organic layers were combined and washed with water (2×250 mL), dried over sodium sulfate and concentrated in vacuo. The residue was slurried in methanol (150 mL) for 1 hour before filtering and drying under vacuum to afford 33.92 g of the title compound as a white solid (83%).

reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 57.5 mmol, 25 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
reactant | potassium carbonate | 148 mmol, 20.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-4-(trifluoromethyl)phenol | 60.6 mmol, 17.4 g | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
reactant | water | 1 L | O | H2O
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
product | 3-Cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 33.92 g, 83% | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)I)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C25H18F3IN4O5S2
